US04353827
13.0 g (128.4 mmol) of L-azetidine-2-carboxylic acid and 22.7 g (128.4 mmol) of 6-methylisatoic acid anhydride in 150 ml of dimethyl sulphoxide are heated to 95° for 3 hours, evaporated to dryness in a high vacuum and the residue obtained is heated to 140° for 2.25 hours. By crystallization from ethyl acetate there is obtained (S)-1,10a-dihydro-5-methyl-2H-azeto[2,1-c][1,4]benzodiazepine-4,10(9H)-dione of melting point 159°-160°.

reactant | L-azetidine-2-carboxylic acid | 128.4 mmol, 13.0 g | C1CN[C@@H]1C(=O)O | C4H7NO2
reactant | 6-methylisatoic acid anhydride | 128.4 mmol, 22.7 g | CC=1C=CC=C2C1C(=O)OC(N2)=O | C9H7NO3
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
product | (S)-1,10a-dihydro-5-methyl-2H-azeto[2,1-c][1,4]benzodiazepine-4,10(9H)-dione | CC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CC1)=O | C12H12N2O2
